US07947689B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[4-methyl-1-(1H-tetrazol-5-yl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl]-methanone
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-methanone is reacted with 1H tetrazole under Buchwald reaction conditions to provide the title compound.

reactant | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)NC=C1)C | C15H14BrN5O
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[4-methyl-1-(1H-tetrazol-5-yl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl]-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)N(C=C1)C1=NN=NN1)C | C16H14BrN9O
